US07253169B2
d. Synthesis of 3,3-dimethyl-1-[2-benzylperhydropyridazinyl]pentane-1,2-dione
A solution of methyl 2-oxo-2-[2-benzylperhydropyridazinyl]acetate (9.0 g, 29.4 mmol) in 30 ml dry THF was cooled to −78° C. and treated with 35 ml of 1.0 M solution of 1,1-dimethylpropylmagnesium chloride in THF. After stirring the resulting homogeneous mixture at for 5 hours, the mixture was poured into saturated ammonium chloride (150 ml) and extracted into ethyl acetate. The organic layer was washed with water, dried and concentrated. The crude material was purified by silica gel column, eluting with 10% ethyl acetate in hexane, to obtain 7.0 g product (69% yield) as clear oil. 1H NMR (CDCl3, 400 MHz): δ 0.76 (t, 3H, J=7.0); 1.06 (s, 6H) 1.69 (m, 6H); 2.80 (m, 1H); 3.15 (m, 1H), 4.03 (m, 1H); 4.13 (m, 1H), 5.18 (m, 2H), 7.36 (m, 5H).

reactant | methyl 2-oxo-2-[2-benzylperhydropyridazinyl]acetate | 29.4 mmol, 9.0 g | O=C(C(=O)OC)C1N(NCCC1)CC1=CC=CC=C1 | C14H18N2O3
reactant | 1,1-dimethylpropylmagnesium chloride | CC(CC)(C)[Mg]Cl
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3,3-dimethyl-1-[2-benzylperhydropyridazinyl]pentane-1,2-dione | 7.0 g, 69% yield | CC(C(C(=O)C1N(NCCC1)CC1=CC=CC=C1)=O)(CC)C | C18H26N2O2
